US07253180B2
For example, 7-(4-fluoro-benzyl)-9-hydroxy-5H-1,7-diaza-anthracene-6,8-dione A1.6 is reacted with one molar equivalent of chlorotriisopropylsilane and imidazole in dimethylformamide at ambient temperature, as described in Tet. Lett., 2865, 1974, to produce 7-(4-fluoro-benzyl)-9-triisopropylsilanyloxy-5H-1,7-diaza-anthracene-6,8-dione A1.7. The product is then reacted in dimethylformamide solution at about 60° C. with one molar equivalent of a dialkyl 2-bromoethyl phosphonate A1.8 (Aldrich) and lithium hexamethyldisilazide, to yield the alkylated product A1.9. The silyl protecting group is then removed by reaction with tetrabutylammonium fluoride in tetrahydrofuran, as described in J. Org. Chem., 51, 4941, 1986, to give the phenolic product A1.10.

reactant | 7-(4-fluoro-benzyl)-9-hydroxy-5H-1,7-diaza-anthracene-6,8-dione | FC1=CC=C(CN2C(CC=3C=C4C=CC=NC4=C(C3C2=O)O)=O)C=C1 | C19H13FN2O3
reactant | chlorotriisopropylsilane | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(4-fluoro-benzyl)-9-triisopropylsilanyloxy-5H-1,7-diaza-anthracene-6,8-dione | FC1=CC=C(CN2C(CC=3C=C4C=CC=NC4=C(C3C2=O)O[Si](C(C)C)(C(C)C)C(C)C)=O)C=C1 | C28H33FN2O3Si
